US06171866B2
2.2.5. 4-Amino-2,5-diethoxyphenethylamine (N7)
3.05 g (12.0 mmol) 4-nitro-2,5-diethoxyphenethylamine N6 was dissolved in 50 ml ethanol, and 1.5 g 10% palladium on carbon black was added. This suspension was hydrogenated at 2.2 atm. for 18 hours, till no more hydrogen uptake was observed. The catalyst was filtered off and the solvent was evaporated to afford 2.75 g light yellow oil (yield: 102%).

reactant | 4-nitro-2,5-diethoxyphenethylamine | 12.0 mmol, 3.05 g | [N+](=O)([O-])C1=CC(=C(CCN)C=C1OCC)OCC | C12H18N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | 4-Amino-2,5-diethoxyphenethylamine | yield: 102% | NC1=CC(=C(CCN)C=C1OCC)OCC | C12H20N2O2
